US07700655B2
(2) 2-Amino-4-[(1,1-dimethyl)ethyl]-5-piperidinothiazole
A mixture of 2-amino-5-bromo-4-[(1,1-dimethyl)ethyl]thiazole (0.10 g, 0.42 mmol), piperidine (0.1 mL), potassium carbonate (0.20 g) and acetonitrile (4 mL) was refluxed for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give the title compound (80.7 mg, 79.3%) as an yellow crystal.

reactant | 2-amino-5-bromo-4-[(1,1-dimethyl)ethyl]thiazole | 0.42 mmol, 0.10 g | NC=1SC(=C(N1)C(C)(C)C)Br | C7H11BrN2S
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-Amino-4-[(1,1-dimethyl)ethyl]-5-piperidinothiazole | 80.7 mg, 79.3% | NC=1SC(=C(N1)C(C)(C)C)N1CCCCC1 | C12H21N3S
